US04261992
3-(2-Methoxyvinyl)isoquinoline (a mixture of the cis and trans isomers; 5 g) is dissolved in methanol (50 cc). A catalyst (3% palladium-on-carbon; 0.5 g) is added and the mixture is hydrogenated in an autoclave at 20° C. under a pressure of 15 atmospheres for 20 hours, whilst stirring. The reaction mixture is then filterred and the filtrate is concentrated to dryness at 40° C. under reduced pressure (20 mm Hg). The oily residue is dissolved in methylene chloride (10 cc) and the solution is poured into a column (diameter 2 cm) containing silica (100 g) in methylene chloride. Elution is carried out with a 99-1 (by volume) methylene chloridemethanol mixture (2 liters), 100 cc fractions being collected. Fractions 10 to 15 are combined and concentrated to dryness at 40° C. under reduced pressure (20 mm Hg). 3-(2-Methoxyethyl)isoquinoline (2.1 g) is obtained in the form of an oil.

reactant | 3-(2-Methoxyvinyl)isoquinoline | COC=CC=1N=CC2=CC=CC=C2C1 | C12H11NO
solvent | methanol | 50 cc | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 3-(2-Methoxyethyl)isoquinoline | 2.1 g | COCCC=1N=CC2=CC=CC=C2C1 | C12H13NO
